US06448442B1
b. 5-[N′-(2-Propenyl)-2,3-diacetoxypropionylamino]-3-acetoxymethyl-N-(2-acetoxyethyl)-2,4,6-triiodobenzamide
5-(2,3-Diacetoxypropionylamino)-3-acetoxymethyl-N-(2-acetoxyethyl)-2,4,6-triiodobenzamide (8.65 g, 10.3 mmol) was dissolved in dimethyl sulfoxide (10 ml) at room temperature. Cesium carbonate (3.88 g, 11.8 mmol) was added and after stirring at room temperature for 15 min, the mixture was cooled in an ice bath. Allyl bromide (2.10 g, 17.3 mmol) was added dropwise and the mixture was then stirred for 17 h at room temperature. The reaction mixture was transferred onto aqueous hydrochloric acid (0.1 M, 300 ml). The formed precepitate was filtered off, redissolved in methylene chloride (150 ml) and washed with water (5×100 ml). The organic phase was dried (Na2SO4), and the solvent evaporated. Yield: 8.73 g (96%).

reactant | 5-(2,3-Diacetoxypropionylamino)-3-acetoxymethyl-N-(2-acetoxyethyl)-2,4,6-triiodobenzamide | 10.3 mmol, 8.65 g | C(C)(=O)OC(C(=O)NC=1C(=C(C(=C(C(=O)NCCOC(C)=O)C1I)I)COC(C)=O)I)COC(C)=O | C21H23I3N2O10
reactant | Cesium carbonate | 11.8 mmol, 3.88 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Allyl bromide | 17.3 mmol, 2.10 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | 0.1 M, 300 ml | Cl | ClH
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 5-[N′-(2-Propenyl)-2,3-diacetoxypropionylamino]-3-acetoxymethyl-N-(2-acetoxyethyl)-2,4,6-triiodobenzamide | C(C=C)N(C=1C(=C(C(=C(C(=O)NCCOC(C)=O)C1I)I)COC(C)=O)I)C(C(COC(C)=O)OC(C)=O)=O | C24H27I3N2O10
